US07081461B1
A solution of ethyl 3-methoxy-4-(3-morpholinopropoxy)-6-aminobenzoate (130 g, 384 mmol) in formamide (280 ml) was heated at 180° C. for 3 hours, during which time a small amount (25 ml) of liquid distilled out of the reaction. The reaction was cooled to 125° C. and the excess formamide was evaporated in vacuo. Trituration of the solid residue with isopropanol (100 ml), followed by drying in vacuo, yielded 6-methoxy-7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one (83.0 g, 68% yield) as a pale brown solid:

reactant | ethyl 3-methoxy-4-(3-morpholinopropoxy)-6-aminobenzoate | 384 mmol, 130 g | COC=1C=C(C(=O)OCC)C(=CC1OCCCN1CCOCC1)N | C17H26N2O5
reactant | formamide | 280 ml | C(=O)N | CH3NO
product | 6-methoxy-7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one | 83.0 g, 68% yield | COC=1C=C2C(NC=NC2=CC1OCCCN1CCOCC1)=O | C16H21N3O4
